US04137313
3.0 gm (8.4 millimols) of methyl 8-chloro-2,5-dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxylate 1,1-dioxide, 0.9 gm (9 millimols) of 2-amino-thiazole and 50 mgm of tri-n-butyl borate were refluxed in 300 ml of dry xylene for 6 hours. The methanol released by the reaction was separated by means of a 4-A-molecular sieve in a Soxhlet-attachment. 3.1 gm of crystals were separated from the cooled reaction mixture by filtration and subsequently boiled in a mixture of 100 ml of acetonitrile and 1 ml of glacial acetic acid. After filtration and drying, 2.5 gm (68% of theory) of 8-chloro-2,5-dihydro-2,5-dimethyl-4-hydroxy-N-(2-thiazolyl)-1,2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide were obtained; M.p.: 282° C. (decomposition).

reactant | methyl 8-chloro-2,5-dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxylate 1,1-dioxide | 8.4 millimols, 3.0 gm | ClC1=CC=2C3=C(N(C2C=C1)C)C(=C(N(S3(=O)=O)C)C(=O)OC)O | C14H13ClN2O5S
reactant | 2-amino-thiazole | 9 millimols, 0.9 gm | NC=1SC=CN1 | C3H4N2S
reactant | tri-n-butyl borate | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | methanol | CO | CH4O
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 8-chloro-2,5-dihydro-2,5-dimethyl-4-hydroxy-N-(2-thiazolyl)-1,2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide | 2.5 gm, 68% | ClC1=CC=2C3=C(N(C2C=C1)C)C(=C(N(S3(=O)=O)C)C(=O)NC=3SC=CN3)O | C16H13ClN4O4S2
